US07816540B2
a) [2-(6-Chloro-pyridin-3-yl)-5,6-difluoro-benzoimidazol-1-yl]-cyclohexyl-acetic acid
To a solution of (2-amino-4,5-difluoro-phenyl)-carbamic acid tert-butyl ester (1.0 g, 4.1 mmol) in methanol (15 mL) were added cyclohexanecarbaldehyde (0.82 mL, 6.14 mmol, 1.5 equiv.), 6-chloro-nicotinic acid (0.665 g, 4.1 mmol, 1.0 equiv.) and isocyanomethyl-benzene (0.48 mL, 10.24 mmol, 1.0 equiv.) and stirred at rt for 16 h. A solution of 4 M HCl in dioxane (10 mL) was added and the reaction mixture stirred at rt for 3 h. The solution was concentrated by evaporation under reduced pressure, the pH adjusted to 9 by addition of a solution of 1 M NaHCO3 and the aqueous layer extracted with ethyl acetate. The combined organic phases were dried over MgSO4 and concentrated by evaporation under reduced pressure. The crude material was dissolved in a mixture of acetic anhydride (40 ml) and acetic acid (20 ml) and cooled to 0° C. Sodium nitrite (7.4 g, 107 mmol) were added in portions. After the addition the reaction was warmed to rt and stirred for 3 h. The solution was concentrated by evaporation under reduced pressure, the pH adjusted to 9 by addition of a solution of 1 M NaHCO3 and the aqueous layer extracted with ethyl acetate. The resulting brown oil was taken up in a mixture of THF:water (3:1, 20 mL) and a pre-prepared solution of LiOH (2.1 g, 48.7 mmol) in hydrogen peroxide (10 mL, 30% solution in water) was added drop wise. The mixture was stirred at rt for 30 min. The solution was concentrated by evaporation under reduced pressure, the pH adjusted to 4 by addition of acetic acid and the aqueous layer extracted with ethyl acetate. The intermediate was not further purified but used as crude material for further modification. MS (ES−): 404 (M−H).

reactant | (2-amino-4,5-difluoro-phenyl)-carbamic acid tert-butyl ester | 4.1 mmol, 1.0 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)F)F)N)=O | C11H14F2N2O2
reactant | cyclohexanecarbaldehyde | 6.14 mmol, 0.82 mL, 1.5 equiv. | C1(CCCCC1)C=O | C7H12O
reactant | 6-chloro-nicotinic acid | 4.1 mmol, 0.665 g, 1.0 equiv. | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | isocyanomethyl-benzene | 10.24 mmol, 0.48 mL, 1.0 equiv. | [N+](#[C-])CC1=CC=CC=C1 | C8H7N
reactant | HCl | 4 M | Cl | ClH
reactant | Sodium nitrite | 107 mmol, 7.4 g | N(=O)[O-].[Na+]
reactant | LiOH | 48.7 mmol, 2.1 g | [Li+].[OH-]
solvent | methanol | 15 mL | CO | CH4O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | hydrogen peroxide | 10 mL | OO | H2O2
product | [2-(6-Chloro-pyridin-3-yl)-5,6-difluoro-benzoimidazol-1-yl]-cyclohexyl-acetic acid | ClC1=CC=C(C=N1)C1=NC2=C(N1C(C(=O)O)C1CCCCC1)C=C(C(=C2)F)F | C20H18ClF2N3O2
